US08383641B2
b.2 6-(1-Benzyl-pyrrolidin-3-yloxy)-2-methoxy-pyridin-3-ylamine
To a solution of 6-(1-benzyl-pyrrolidin-3-yloxy)-2-methoxy-3-nitro-pyridine (0.38 g, 1.15 mmol) in acetic acid (4 ml) at 80° C. was added iron (0.32 g, 5.77 mmol) slowly in portions. The exothermic reaction was stirred for 3 h at 80° C. After evaporation of the solvent under reduced pressure the solid residue was dissolved in 1N NaOH, which was extracted 6 times with dichloromethane. The combined organic layers were dried over MgSO4, filtered and the solvent evaporated to obtain 240 mg (68.9%) of the title compound.

reactant | 6-(1-benzyl-pyrrolidin-3-yloxy)-2-methoxy-3-nitro-pyridine | 1.15 mmol, 0.38 g | C(C1=CC=CC=C1)N1CC(CC1)OC1=CC=C(C(=N1)OC)[N+](=O)[O-] | C17H19N3O4
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 5.77 mmol, 0.32 g | [Fe] | Fe
product | 6-(1-Benzyl-pyrrolidin-3-yloxy)-2-methoxy-pyridin-3-ylamine | 240 mg, 68.9% | C(C1=CC=CC=C1)N1CC(CC1)OC1=CC=C(C(=N1)OC)N | C17H21N3O2
